US04833061
A 3/1 molar mixture of 3 parts methacrylic acid (MAA) and 1 part PAPM were copolymerized by free radial initiation. This afforded a 3/1 MAA/PAPM photosensitive electrolyte copolymer.

reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | PAPM | C[C@H]([C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)S[C@H]3CCN(C3)C(=N)C)O | C15H21N3O4S
product | MAA PAPM | C(C(=C)C)(=O)O.C[C@H]([C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)S[C@H]3CCN(C3)C(=N)C)O | InChI=1S/C15H21N3O4S.C4H6O2/c1-7(19)12-10-5-11(13(15(21)22)18(10)14(12)20)23-9-3-4-17(6-9)8(2)16;1-3(2)4(5)6/h7,9-10,12,16,19H,3-6H2,1-2H3,(H,21,22);1H2,2H3,(H,5,6)/t7-,9+,10-,12-;/m1./s1
